US06329381B1
6-Amino-9-benzyl-2-(3-cyanopropyl)thio-8-hydroxypurine
Crude 6-amino-9-benzyl-8-hydroxy-2-mercaptopurine (150 mg, 0.55 mmol) was suspended in dimethylformamide (10 ml). To the suspension were added potassium carbonate (202 mg, 1.46 mmol) and 4-chlorobutyronitrile (152 mg, 1.46 mmol) in order. The mixture was stirred at room temperature for 3 hours. The solvent was removed in vacuo, and to the residue was added water. The mixture was extracted with chloroform and the organic layer was dried on sodium sulfate. After removal of the solvent in vacuo, the residue was purified by silica gel chromatography (5% methanol/chloroform) to give the subject compound (71 mg, yield 29%).

reactant | 6-amino-9-benzyl-8-hydroxy-2-mercaptopurine | 0.55 mmol, 150 mg | NC1=C2N=C(N(C2=NC(=N1)S)CC1=CC=CC=C1)O | C12H11N5OS
reactant | potassium carbonate | 1.46 mmol, 202 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-chlorobutyronitrile | 1.46 mmol, 152 mg | ClCCCC#N | C4H6ClN
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 6-Amino-9-benzyl-2-(3-cyanopropyl)thio-8-hydroxypurine | 71 mg, yield 29% | NC1=C2N=C(N(C2=NC(=N1)SCCCC#N)CC1=CC=CC=C1)O | C16H16N6OS
